US05236952
38 g of 2-chloro-3-formyl-6-methoxyphenyl acetate are introduced portionwise at -5° to -10° within 15 minutes into 150 ml of 98 percent nitric acid. After stirring at -5° for 30 minutes the reaction mixture is poured into 1.5 l of ice-water and extracted three times with 500 ml of methylene chloride. The combined organic phases are washed with ice-water, dried over sodium sulfate and evaporated. The residue is crystallized from ether. There is obtained 2-chloro-3-formyl-6-methoxy-5-nitrophenyl acetate of m.p. 84°-85°.

reactant | 2-chloro-3-formyl-6-methoxyphenyl acetate | 38 g | C(C)(=O)OC1=C(C(=CC=C1OC)C=O)Cl | C10H9ClO4
reactant | nitric acid | 150 ml | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-3-formyl-6-methoxy-5-nitrophenyl acetate | C(C)(=O)OC1=C(C(=CC(=C1OC)[N+](=O)[O-])C=O)Cl | C10H8ClNO6
